US04891379
A. 3-(2-Thienyl)propionyl chloride
To a solution of 5.0 g (0.032 mol) of 3-(2-thienyl)propionic acid in 2 ml of methylene chloride and 25 ml of oxalyl chloride was added three drops of N,N-dimethylformamide slowly. Following evolution of the gas the reaction mixture was concentrated under vacuum and 20 ml of hexane was added to the residue. The resulting mixture was filtered and the filtrate was concentrated under vacuum. The resulting compound, 3-(2-thienyl)propionyl chloride, was used directly in the following reaction.

reactant | 3-(2-thienyl)propionic acid | 0.032 mol, 5.0 g | S1C(=CC=C1)CCC(=O)O | C7H8O2S
reactant | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | oxalyl chloride | 25 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | N,N-dimethylformamide | three drops | CN(C=O)C | C3H7NO
product | 3-(2-Thienyl)propionyl chloride | S1C(=CC=C1)CCC(=O)Cl | C7H7ClOS
